US06824760B2
Synthesis of N-t-Butyloxycarbonyl-O-[3-hydroxypropyl]-αmethyltyrosine methylester
The N-t-butyloxycarbonyl-α-methyltyrosine methylester (1.70 g) from the previous synthesis was dissolved in 25 ml of absolute ethanol and treated with dry sodiun ethoxide (742 mg). 3-Bromopropanol (924 mg, 0.6 ml) was added and the solution was refluxed for 5 hours. The ethanol was then evaporated, 100 ml of dichloromethane added and the solution washed with 100 ml of water. After drying over MgSO4 the solvent was evaporated to yield two spots on a TLC plate developed in EtOAc:Hexane 1:1. The first spot was product and the second was starting material. The product was purified on a silica gel column using EtOAc:Hexane (1:1) A yield of 620 mg (MW 367.2, 31%) was obtained.

reactant | N-t-butyloxycarbonyl-α-methyltyrosine methylester | 1.70 g | COC([C@@](NC(=O)OC(C)(C)C)(CC1=CC=C(C=C1)O)C)=O | C16H23NO5
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
product | N-t-Butyloxycarbonyl-O-[3-hydroxypropyl]-αmethyltyrosine methylester | COC([C@@](NC(=O)OC(C)(C)C)(CC1=CC=C(C=C1)OCCCO)C)=O | C19H29NO6
